US05346917
A mixture of 1-[[2-(dimethylamino)ethyl]amino]-9-oxothioxanthen-4-carboxaldehyde (4.75 g), formamide (66.5 mL) and formic acid (7.6 mL) was heated at 170° C. for 4 hours. The mixture was poured into ice water (250 mL), basified with 35% NaOH and extracted with chloroform. The organic layer was washed with water (2X), then brine (1X) and the solvent was dried over Na2SO4 and concentrated in vacuo to afford 6.2 g of N-[[1-[[2-(dimethylamino)ethyl]amino]-9-oxothioxanthen-4-yl]methyl]formamide.

reactant | 1-[[2-(dimethylamino)ethyl]amino]-9-oxothioxanthen-4-carboxaldehyde | 4.75 g | CN(CCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)C=O)C | C18H18N2O2S
reactant | formamide | 66.5 mL | C(=O)N | CH3NO
reactant | NaOH | [OH-].[Na+]
solvent | formic acid | 7.6 mL | C(=O)O | CH2O2
product | N-[[1-[[2-(dimethylamino)ethyl]amino]-9-oxothioxanthen-4-yl]methyl]formamide | 6.2 g | CN(CCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)CNC=O)C | C19H21N3O2S
